US07723347B2
4-Chloro-1-[(4-methylphenyl)sulfonyl]-3-(trimethylstannyl)-1H-pyrrolo[2,3-b]pyridine
In a Schlenk flask (dried by heating under high vacuum and venting with argon), 1.0 g of 4-chloro-3-iodo-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine (2.31 mmol) is initially charged in anhydrous THF (30 ml) and cooled to −78° C. 2.85 ml of tert-butyllithium (1.7 M in pentane) (4.85 mmol) is then slowly added dropwise, and the mixture is stirred at −78° C. for 30 min. 2.42 ml of a 1 M solution of trimethyltin chloride in THF are then added dropwise, and the mixture is allowed to warm to RT overnight. 10 ml of a saturated potassium fluoride solution are then added, and the organic phase is separated off and extracted once with ethyl acetate. The combined organic phases are dried over magnesium sulfate, and the solution is concentrated. The product is purified by column chromatography on silica gel (mobile phase: toluene/ethyl acetate 20:1).

reactant | 4-chloro-3-iodo-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine | 2.31 mmol, 1.0 g | ClC1=C2C(=NC=C1)N(C=C2I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10ClIN2O2S
reactant | tert-butyllithium | 4.85 mmol, 1.7 M, 2.85 ml | C(C)(C)(C)[Li]
reactant | trimethyltin chloride | C[Sn](C)(C)Cl
reactant | potassium fluoride | 10 ml | [F-].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-Chloro-1-[(4-methylphenyl)sulfonyl]-3-(trimethylstannyl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)N(C=C2[Sn](C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | InChI=1S/C14H10ClN2O2S.3CH3.Sn/c1-10-2-4-11(5-3-10)20(18,19)17-9-7-12-13(15)6-8-16-14(12)17;;;;/h2-6,8-9H,1H3;3*1H3;
